US05629340
To a three-neck flask, 187 ml of a 30M ethyl magnesium bromide ether solution was poured and stirred for 5 minutes under ice cooling. To this solution, 400 ml of a toluene solution in which 123.51 g of 3-benzyloxy-4-methoxybenzaldehyde was dissolved, and the mixture was added dropwise from a dropping funnel over 20 minutes. The reaction solution was stirred for additional 2 hours under ice cooling. After the completion of the reaction, the reaction solution was diluted by adding 300 ml of ethyl acetate. Further, pulverized sodium sulfate decahydrates was added to the reaction solution, which was stirred for 2 hours until a precipitate becomes smoothly. After allowed to stand still for 3 hours, the reaction solution was filtered under reduced pressure, separating into a supernatant and a precipitate. The supernatant was concentrated to dryness, affording 140.57 g of 1-(3'-benzyloxy-4'-methoxyphenyl) propanol.

reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | 3-benzyloxy-4-methoxybenzaldehyde | 123.51 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OC | C15H14O3
product | 1-(3'-benzyloxy-4'-methoxyphenyl) propanol | 140.57 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(CC)O | C17H20O3
